US05776718
Synthesis of 1-benzyloxycarbonylamino-3-phenyl-1-phenylsulfonylpropane (Z-Hph-α-SO2Ph).
To a suspension of sodium benzenesulfinate (10 g, 60.9 mmol) and benzyl carbamate (9.21 g, 60.9 mmol) in water (40 mL) was added hydrocinnamaldehyde (8.8 mL, 67 mmol) in formic acid (10 mL). The mixture was heated at 70° C. for 1 hour, then permitted to cool to room temperature overnight. The product crystallized out; it was filtered and recrystallized from hot isopropanol, giving 23 g (100%) yield. TLC: (30% ethyl acetate/hexane) Rf =0.37.

reactant | sodium benzenesulfinate | 60.9 mmol, 10 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | benzyl carbamate | 60.9 mmol, 9.21 g | C(N)(OCC1=CC=CC=C1)=O | C8H9NO2
reactant | hydrocinnamaldehyde | 67 mmol, 8.8 mL | C(CCC1=CC=CC=C1)=O | C9H10O
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | 40 mL | O | H2O
solvent | formic acid | 10 mL | C(=O)O | CH2O2
product | 1-benzyloxycarbonylamino-3-phenyl-1-phenylsulfonylpropane | C(C1=CC=CC=C1)OC(=O)NC(CCC1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C23H23NO4S
